US05378690
5-(N-Benzyl-N-methylamino)-2-(1naphthylmethyl)-4-oxopentanoic acid
5.64 g of a sulfur trioxide/pyridine complex were added to a solution of 3.13 g (7.22 mmole) of t-butyl 5-(N-benzyl-N-methylamino)-4-hydroxy-2-(1-naphthylmethyl)pentanoate (prepared as described in Preparation 29) and 5 ml of triethylamine dissolved in 20 ml of dimethyl sulfoxide at room temperature, and the mixture was stirred for 2 hours. At the end of this time, the reaction mixture was diluted with water and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, after which it was concentrated by evaporation under reduced pressure. 20 ml of a 4N solution of hydrogen chloride in dioxane were added to the residue, and the mixture was stirred for 2 hours; it was then concentrated by evaporation under reduced pressure. The residue was dissolved in water, and the resulting solution was neutralized by adding a 1N aqueous solution of sodium hydroxide. It was then concentrated by evaporation under reduced pressure. The residue was dissolved in methylene chloride and the resulting insoluble materials were removed by filtration. The filtrate was concentrated by evaporation under reduced pressure to afford 1.94 g of the title compound as a colorless amorphous substance.

reactant | t-butyl 5-(N-benzyl-N-methylamino)-4-hydroxy-2-(1-naphthylmethyl)pentanoate | 7.22 mmole, 3.13 g | C(C1=CC=CC=C1)N(C)CC(CC(C(=O)OC(C)(C)C)CC1=CC=CC2=CC=CC=C12)O | C28H35NO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-(N-Benzyl-N-methylamino)-2-(1naphthylmethyl)-4-oxopentanoic acid | 1.94 g | C(C1=CC=CC=C1)N(C)CC(CC(C(=O)O)CC1=CC=CC2=CC=CC=C12)=O | C24H25NO3
